US03954754
EXAMPLE 10: 6-Benzoyl-5,6,7,8-tetrahydro-3-(1-methylhydrazino)pyrido[4,3-c] pyridazine
13.7 g of 6-benzoyl-3-chloro-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine in 40 cc of methyl hydrazine are stirred at a bath temperature of 50° for 61/2 hours. The oil resulting after concentrating the reaction solution is dissolved in 200 cc of chloroform, the solution is dried with sodium sulphate and again concentrated to an oil. This is boiled for a short time with 12.0 g of gentisic acid in 100 cc of methanol on a water bath. After concentrating the solution to approximately 2/3 of its volume, and cooling with ice, the bisgentisinate of the title compound precipitates. M.P. 166°-168° (decomp., from absolute ethanol).

reactant | 6-benzoyl-3-chloro-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine | 13.7 g | C(C1=CC=CC=C1)(=O)N1CC2=C(N=NC(=C2)Cl)CC1 | C14H12ClN3O
reactant | methyl hydrazine | 40 cc | CNN | CH6N2
product | 6-Benzoyl-5,6,7,8-tetrahydro-3-(1-methylhydrazino)pyrido[4,3-c] pyridazine | C(C1=CC=CC=C1)(=O)N1CC2=C(N=NC(=C2)N(N)C)CC1 | C15H17N5O
